US07319104B2
A solution of methyltriphenylphosphonium bromide (101 mg; 0.28 mmol) in 0.76 ml of THF was treated under nitrogen with potassium tert-butoxide (0.28 ml of a 1M solution in tert-butanol). After 10 minutes, ethyl 2-[4-(2-{(5-acetylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (100 mg; 0.19 mmol) was added. After 2 hours the reaction mixture was concentrated and the residue was partitioned between ethyl acetate and water. The organic phase was dried over sodium sulfate and concentrated. Purification by flash chromatography using 10% ethyl acetate-hexane mixtures afforded ethyl 2-[4-(2-{(5-isopropenylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (30 mg; 30% yield).

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | ethyl 2-[4-(2-{(5-acetylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 0.19 mmol, 100 mg | C(C)(=O)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C29H31F3N2O4
catalyst | methyltriphenylphosphonium bromide | 0.28 mmol, 101 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 0.76 ml | C1CCOC1 | C4H8O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | ethyl 2-[4-(2-{(5-isopropenylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 30 mg, 30% yield | C(=C)(C)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C30H33F3N2O3
